US04452632
Preparation of 1-Morpholino-1-Cyclododecene
A two liter three-necked flask was charged with 366 grams (2.0 moles) cyclododecanone, 348 grams (4.0 moles) morpholine, 600 ml toluene and 3.0 grams (0.0158 moles) para-toluene sulfonic acid catalyst. A magnetic stir bar was added along with a few carbon boiling chips. A Dean-Stark water trap and condenser were then attached and the mixture brought to reflux with stirring. After 46 hours reflux, 75 ml. of aqueous phase had been collected. The mixture was then cooled and the excess toluene and morpholine removed at reduced pressure (25-50 mm Hg). The residue was then distilled under vacuum (0.6 mm Hg) to yield 300.5 grams of a viscous clear oil, 1-morpholino-1-cyclododecene, b.p. 135°-150° C., 60% yield.

reactant | cyclododecanone | 2.0 moles, 366 grams | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | morpholine | 4.0 moles, 348 grams | N1CCOCC1 | C4H9NO
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | para-toluene sulfonic acid | 0.0158 moles, 3.0 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1-Morpholino-1-Cyclododecene | 300.5 grams, 60% yield | O1CCN(CC1)C1=CCCCCCCCCCC1 | C16H29NO
